US08492401B2
Preparation of N-(2-(6-((4-(2-methoxyethyl)piperazin-1-yl)methyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-2-phenylthiazole-4-carboxamide
The title compound was prepared according to amide synthesis general method A, utilizing 2-(6-((4-(2-methoxyethyl)piperazin-1-yl)methyl)thiazolo[5,4-b]pyridin-2-yl)aniline and 2-phenylthiazole-4-carboxylic acid (3 eq), HATU (3 eq) and DIPEA (5 eq). The product was isolated by precipitation by the addition of water, triturated with hot methanol and purified by silica gel chromatography (gradient 0 to 10% methanol in CH2Cl2). MS Calcd for C30H30N6O2S2: 570.19. Found (M+H)+ m/z=571.

reactant | 2-(6-((4-(2-methoxyethyl)piperazin-1-yl)methyl)thiazolo[5,4-b]pyridin-2-yl)aniline | COCCN1CCN(CC1)CC=1C=C2C(=NC1)SC(=N2)C2=C(N)C=CC=C2 | C20H25N5OS
reactant | 2-phenylthiazole-4-carboxylic acid | 3 eq | C1(=CC=CC=C1)C=1SC=C(N1)C(=O)O | C10H7NO2S
reactant | HATU | 3 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 5 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | water | O | H2O
product | N-(2-(6-((4-(2-methoxyethyl)piperazin-1-yl)methyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-2-phenylthiazole-4-carboxamide | COCCN1CCN(CC1)CC=1C=C2C(=NC1)SC(=N2)C2=C(C=CC=C2)NC(=O)C=2N=C(SC2)C2=CC=CC=C2 | C30H30N6O2S2
